* C:\Users\sgrigorevski\Downloads\Versuch1-2.asc
* Generated by LTspice 24.1.10 for Windows.
V2 in 0 SINE(0 1m 100k) AC 1m 0
RQuelle1 N002 in 50
C1 N003 N002 100n
R3 N001 N003 330k
R4 N001 Kollektor 510
Q1 Kollektor N003 0 0 2N2222
V1 N001 0 12 Rser=1
R1 Kollektor 0 10Meg
C2 Kollektor 0 8p
.model NPN NPN
.model PNP PNP
.lib C:\Users\sgrigorevski\AppData\Local\LTspice\lib\cmp\standard.bjt
;op
.ac dec 10 2k 200meg
* .tran 0 1m 0
;step param V list 11m 10m
.four 100kHz V(Kollektor)
;options plotwinsize=0
.net I(R1) V2
.backanno
.end
