* D:\Projects\HSFT\HFST\kk\1-5-5.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 12 Rser=1
V2 In1 0 SINE(0 1m 500k) AC 1m 0
V3 N005 0 0.707 Rser=806
F1 Kollektor1 0 v3 200
C1 N005 N006 100n
R1 N001 N005 330k
R2 N001 Kollektor1 510
R3 Kollektor1 0 10Meg
C2 Kollektor1 0 8p
C3 N005 0 25p
C4 Kollektor1 N005 8p
RQuelle1 N006 In1 520
V4 in 0 SINE(0 1m 100k) AC 1m 0
RQuelle2 N003 in 520
C5 N004 N003 100n
R4 N002 N004 330k
R5 N002 Kollektor 510
Q1 Kollektor N004 0 0 2N2222
V5 N002 0 12 Rser=1
R6 Kollektor 0 10Meg
C6 Kollektor 0 8p
.model NPN NPN
.model PNP PNP
.lib C:\Users\wenze\AppData\Local\LTspice\lib\cmp\standard.bjt
* .op
.ac oct 15 100 200meg
;tran 0 100u 0
.backanno
.end
