* D:\Projects\HSFT\HFST\kk\1-5-4.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N003 0 12 Rser=1
V2 In 0 SINE(0 1m 500k) AC 1m 0
V3 N006 0 0.707 Rser=806
F1 Kollektor 0 v3 200
C1 N006 N007 100n
R1 N003 N006 330k
R2 N003 Kollektor 510
R3 Kollektor 0 10Meg
C2 Kollektor 0 8p
C3 N006 0 25p
C4 Kollektor N006 8p
RQuelle1 N007 In 520
V4 N001 0 12 Rser=1
V5 In2 0 SINE(0 1m 1meg) AC 1m 0
V6 N004 0 0.707 Rser=805
F2 Kollektor2 0 v6 190
C5 N004 N005 100n
R4 N001 N004 330k
R5 N001 Out2 510
R6 Out2 0 10Meg
C6 Out2 0 8p
C7 N004 0 25p
C8 Kollektor2 N004 8p
RQuelle2 N005 In2 520
R7 N001 N002 1k
R8 N002 0 510
C9 Out2 N002 8p
V7 N002 Kollektor2 0.707 Rser=820
C10 N002 Kollektor2 25p
F3 Out2 Kollektor2 v7 190
C11 N002 0 10n
* .op
.ac oct 15 100 200meg
;tran 0 100u 0
;step param C 1f 1p 100f
.backanno
.end
