* C:\Users\sgrigorevski\Downloads\kk\Draft2.asc
* Generated by LTspice 24.1.10 for Windows.
C1 out 0 200n
R1 out in 1k
V1 in 0 SINE(1 1) AC 1
.ac oct 10 100 50k
.backanno
.end
