* D:\Projects\HSFT\HFST\kk\Draft3.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 12 Rser=1
V2 In 0 SINE(0 1m 1meg) AC 1m 0
V3 N003 0 0.707 Rser=805
F1 Kollektor 0 v3 190
C1 N003 N004 100n
R1 N001 N003 330k
R4 N001 Out 510
R10 Out 0 10Meg
C7 Out 0 8p
C3 N003 0 25p
C4 Kollektor N003 8p
RQuelle1 N004 In 520
R2 N001 N002 1k
R5 N002 0 510
C5 Out N002 8p
V4 N002 Kollektor 0.707 Rser=820
C6 N002 Kollektor 25p
F2 Out Kollektor v4 190
C10 N002 0 10n
;op
.ac oct 10 1k 200meg
;tran 0 100u 0
.backanno
.end
